US07244744B2
1-[1-(4-Butyl-benzoyl)-piperidin-4-yl]-1,3-dihydro-benzoimidazol-2-one (197.2 mg, 0.522 mmol), allyl bromide (260 μL, 3.0 mmol) and cesium carbonate (excess) were added to dimethyl formamide (3 mL) and the suspension was stirred at 120° C. in a sealed tube for 72 hours. The reaction was allowed to cool to room temperature and diluted with water (9 mL) then extracted with ethyl ether (2×10 mL). The combined organic phase was dried over sodium sulfate and purified by column chromatography on silica gel using ethyl ether as the eluent. The product fractions were combined and concentrated to give an oily residue. The residue was triturated with ethyl ether and the white crystals that formed were collected by filtration. Vacuum drying yielded 1-allyl-3-[1-(4-butyl-benzoyl)-piperidin-4-yl]-1,3-dihydro-benzoimidazol-2-one (144 mg, 66%) as a white crystalline solid.

reactant | 1-[1-(4-Butyl-benzoyl)-piperidin-4-yl]-1,3-dihydro-benzoimidazol-2-one | 0.522 mmol, 197.2 mg | C(CCC)C1=CC=C(C(=O)N2CCC(CC2)N2C(NC3=C2C=CC=C3)=O)C=C1 | C23H27N3O2
reactant | allyl bromide | 3.0 mmol, 260 μL | C(C=C)Br | C3H5Br
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethyl formamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 9 mL | O | H2O
product | 1-allyl-3-[1-(4-butyl-benzoyl)-piperidin-4-yl]-1,3-dihydro-benzoimidazol-2-one | 144 mg, 66% | C(C=C)N1C(N(C2=C1C=CC=C2)C2CCN(CC2)C(C2=CC=C(C=C2)CCCC)=O)=O | C26H31N3O2
